US04792555
N-[1-[(3,5-Dimethyl-1-piperazinyl)carbonyl]pentyl][1,1'-biphenyl]-4-acetamide
Following the procedure of Example 3, and using 4-biphenylacetic acid, norleucine methyl ester and 2,6-dimethylpiperazine, there is obtained the title compound in 375 mg yield.

reactant | 4-biphenylacetic acid | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | norleucine methyl ester | COC([C@@H](N)CCCC)=O | C7H15NO2
reactant | 2,6-dimethylpiperazine | CC1NC(CNC1)C | C6H14N2
product | N-[1-[(3,5-Dimethyl-1-piperazinyl)carbonyl]pentyl][1,1'-biphenyl]-4-acetamide | CC1CN(CC(N1)C)C(=O)C(CCCC)NC(CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C26H35N3O2
